US05496927
N1 -(2-Hydroxy-3,3,3-trifluoro-1-isopropylpropyl) N2 -phenylmethyloxycarbonyl-prolinamide
To a mixture of 1.1 g of N-phenylmethyloxycarbonyl proline TDO-ester (Cf Hollitzer, Seewald and Steglichm Ang. Int. Edit. 1976, Vol. 15, 444) and 0.42 g of 3-amino-1,1,1-trifluoro-4-methyl-2-pentanol hydrochloride in 50 ml of CH2Cl2 was added dropwise 0.40 g of triethylamine. After stirring for 14 hours at 25° C., aqueous KHSO4 was added, the layers separated and the organic layer washed with aqueous KHSO4, aqueous KHCO3, H2O and then brine (2x). After drying (MgSO4), solvents were flash evaporated to yield 0.54 g of a solid residue which was recrystallized in Et20 to give 0.24 g of the analytically pure expected amide; m.p. 99° C.

reactant | N-phenylmethyloxycarbonyl proline | 1.1 g | C1(=CC=CC=C1)COC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | 3-amino-1,1,1-trifluoro-4-methyl-2-pentanol hydrochloride | 0.42 g | Cl.NC(C(C(F)(F)F)O)C(C)C
reactant | triethylamine | 0.40 g | C(C)N(CC)CC | C6H15N
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N1 -(2-Hydroxy-3,3,3-trifluoro-1-isopropylpropyl) N2 -phenylmethyloxycarbonyl-prolinamide | 0.54 g | OC(C(C(C)C)N1[C@H](C(=O)NC(=O)OCC2=CC=CC=C2)CCC1)C(F)(F)F | C19H25F3N2O4
